US08076324B2
4-(5-Fluoropyridin-2-yl)-4-hydroxy-1-phenylcyclohexanecarbonitrile
According to the process described in Example 260, 25 mmol of 2-bromo-5-fluoropyridine were converted into the Grignard reagent and reacted with 25 mmol of 4-oxo-1-phenylcyclohexanecarbonitrile (dissolved in 100 ml of THF). The chromatographic separation of the crude product (silica gel flash column; HEP/EA 3:1) afforded two main fractions (TLC (HEP/EA 1:1): Rf 0.58 and 0.49), which were combined. 6.6 g of the title compound (cis/trans mixture) were obtained as a viscous yellow oil.

reactant | 2-bromo-5-fluoropyridine | 25 mmol | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | 4-oxo-1-phenylcyclohexanecarbonitrile | 25 mmol, 100 ml | O=C1CCC(CC1)(C#N)C1=CC=CC=C1 | C13H13NO
product | 4-(5-Fluoropyridin-2-yl)-4-hydroxy-1-phenylcyclohexanecarbonitrile | 6.6 g | FC=1C=CC(=NC1)C1(CCC(CC1)(C#N)C1=CC=CC=C1)O | C18H17FN2O
